US07829584B2
3-cyano-6-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-[3-(tert-butoxycarbonyl)amino-benzo[d]isoxazol-5-ylmethyl]aminocarbonylmethyl-pyridine 1-oxide
A mixture of 3-cyano-6-chloro-2-[3-(tert-butoxycarbonyl)amino-benzo[d]isoxazol-5-ylmethyl]aminocarbonylmethyl-pyridine 1-oxide (103 mg, 0.225 mmol) and 2,2-difluoro-2-pyridin-2-yl-ethylamine (89 mg, 0.534 mmol) (Organic Process Research & Development 8:192-200, 2004), in DMSO (3 mL) was stirred for 18 hrs at 80° C. LC/MS (ESI) (M+H+ 580.2) indicated the formation of desired product. After removing most DMSO by high-vacuum rotary evaporation, water was added, after which time precipitate formed. The liquid was loaded onto a 5 g FisherBrand PrepSep SPE C18 cartridge. The solid was washed with water a few times. The washes were also loaded onto the cartridge. The cartridge was then washed with water (40 mL), acetonitrile (20 mL), mixture of acetonitrile/DCM (1:1, 20 mL) and DMF (10 mL). All organic washes were combined and stripped off solvent by rotary evaporation. An orange solid was obtained and used without further purification. LC/MS (ESI): M+H+ 580.1.

reactant | 3-cyano-6-chloro-2-[3-(tert-butoxycarbonyl)amino-benzo[d]isoxazol-5-ylmethyl]aminocarbonylmethyl-pyridine 1-oxide | 0.225 mmol, 103 mg | C(#N)C=1C(=[N+](C(=CC1)Cl)[O-])CC(=O)NCC=1C=CC2=C(C(=NO2)NC(=O)OC(C)(C)C)C1 | C21H20ClN5O5
reactant | 2,2-difluoro-2-pyridin-2-yl-ethylamine | 0.534 mmol, 89 mg | FC(CN)(C1=NC=CC=C1)F | C7H8F2N2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 3-cyano-6-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-[3-(tert-butoxycarbonyl)amino-benzo[d]isoxazol-5-ylmethyl]aminocarbonylmethyl-pyridine 1-oxide | C(#N)C=1C(=[N+](C(=CC1)NCC(C1=NC=CC=C1)(F)F)[O-])CC(=O)NCC=1C=CC2=C(C(=NO2)NC(=O)OC(C)(C)C)C1 | C28H27F2N7O5
